US06300352B1
a) 1-Bromo-3-methanesulfonylbenzene
3-Bromothioanisole was dissolved in methanol (20 ml) and cooled to 0° C. (ice/water bath). A solution of Oxone® (9.22 g) in water (30 ml) was added to this and the resultant cloudy slurry was stirred at room temperature for 3 hours. The reaction mixture was diluted with water and product extracted with dichloromethane. The combined fractions of dichloromethane were washed with brine and dried over anhydrous magnesium sulfate. After filtration, solvent was removed by evaporation under reduced pressure to give the sub-title compound as a solid (1.02 g).

reactant | 3-Bromothioanisole | BrC=1C=C(C=CC1)SC | C7H7BrS
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | methanol | 20 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 1-Bromo-3-methanesulfonylbenzene | 1.02 g | BrC1=CC(=CC=C1)S(=O)(=O)C | C7H7BrO2S
